US07645755B2
To a solution of 1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester (as prepared in the previous step, 257 mg, 1.00 mmol) in EtOH (2 mL), 2 N KOH (0.5 mL, 1 mmol) was added. The resulting solution was stirred at RT for 20 min and concentrated in vacuo. The residue obtained was suspended in ether (10 mL) and sonicated for 5 min. The ether was then removed in vacuo and the resulting residue was dried for 4 hr to obtain 1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid potassium salt (273 mg, 97%) which was directly used in the next step without any further purification.

reactant | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid methyl ester | COC(=O)C1=NN(C=N1)COCC[Si](C)(C)C | C10H19N3O3Si
reactant | KOH | 1 mmol, 2 N, 0.5 mL | [OH-].[K+]
solvent | EtOH | 2 mL | CCO | C2H6O
solvent | ether | 10 mL | CCOCC | C4H10O
product | 1-(2-trimethylsilanyl-ethoxymethyl)-1H-[1,2,4]-triazole-3-carboxylic acid potassium salt | 273 mg, 97% | [K+].C[Si](CCOCN1N=C(N=C1)C(=O)[O-])(C)C | InChI=1S/C9H17N3O3Si.K/c1-16(2,3)5-4-15-7-12-6-10-8(11-12)9(13)14;/h6H,4-5,7H2,1-3H3,(H,13,14);/q;+1/p-1
